US04314061
3,6-bis[2-(2-hydroxyethylamino)ethoxy]acridine
The compound is prepared from 3,6-bis(2-chloroethoxy)acridine hydrochloride and ethanolamine as described in Example 15, giving 0.7 g. of the desired product as yellow crystals, m.p. 125°-127° C.

reactant | 3,6-bis(2-chloroethoxy)acridine hydrochloride | Cl.ClCCOC=1C=CC2=CC3=CC=C(C=C3N=C2C1)OCCCl
reactant | ethanolamine | C(O)CN | C2H7NO
product | 3,6-bis[2-(2-hydroxyethylamino)ethoxy]acridine | OCCNCCOC=1C=CC2=CC3=CC=C(C=C3N=C2C1)OCCNCCO | C21H27N3O4
